US06967197B2
A mixture of N-(2-tetrahydropyranyloxy)-2-[7-(5-bromo-2-thienyl)-4-methanesulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (200 mg), 4-methoxyphenylboronic acid (83.6 mg) and tetrakis(triphenylphosphine)palladium(0) (21.2 mg) in a mixture of 1,2-dimethoxyethane (2 ml) and aqueous 2M sodium carbonate (0.75 ml) was stirred for 2 hours at 80° C. After cooling to room temperature, the mixture was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate and brine, dried over sodium sulfate and concentrated in vacuo. The obtained residue was purified with silica gel column chromatography (eluent; 0.5-3% methanol in chloroform) to give N-(2-tetrahydropyranyloxy)-2-[7-(5-(4-methoxyphenyl)-2-thienyl)-4-methanesulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (130 mg) as an amorphous powder.

reactant | N-(2-tetrahydropyranyloxy)-2-[7-(5-bromo-2-thienyl)-4-methanesulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 200 mg | O1C(CCCC1)ONC(CC1(CCN(CCS1(=O)=O)S(=O)(=O)C)C=1SC(=CC1)Br)=O | C17H25BrN2O7S3
reactant | 4-methoxyphenylboronic acid | 83.6 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2M, 0.75 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 21.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-tetrahydropyranyloxy)-2-[7-(5-(4-methoxyphenyl)-2-thienyl)-4-methanesulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 130 mg | O1C(CCCC1)ONC(CC1(CCN(CCS1(=O)=O)S(=O)(=O)C)C=1SC(=CC1)C1=CC=C(C=C1)OC)=O | C24H32N2O8S3
